US08211908B2
To a solution 211 mg of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one and 120 mg of 2,3-dihydro(1,4)dioxino(2,3-b)pyridine-7-carbaldehyde in 22 mL of chloroform, 88 mg of acetic acid was added, and the mixture was stirred at room temperature for 14 hours. To the reaction mixture, 232 mg of sodium triacetoxyborohydride was added, and the mixture was stirred for 2 hours. Thereto was added a saturated aqueous sodium hydrogen carbonate solution, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Silica Gel 60N made by KANTO CHEMICAL CO., INC., and an eluent of chloroform:methanol=10:1 to obtain 185 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one as a light yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 211 mg | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O | C15H19FN4O
reactant | 2,3-dihydro(1,4)dioxino(2,3-b)pyridine-7-carbaldehyde | 120 mg | O1CCOC2=NC=C(C=C21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 232 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 22 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 88 mg | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 185 mg | O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C23H26FN5O3
